US07390789B2
The (R)-2-amino-2-cyclohexylacetic acid (H-Cyclohexyl-D-Gly-OH, 1 g, 6.36 mmol), which is commercially available from Bachem California Inc., Torrance, Calif. 90505, was dissolved in a mixture of HBr 48% (5.8 niL, 50.9 mmol) and H2O (20 mL). At 0° C., a solution of NaNO2 (1.4 g, 20.4 mmol) in H2O (10 mL) was added over a period of 30 min. The reaction was stirred for two hours. The reaction mixture was degassed in vacuo and extracted with EtOAc (2×2mL). The extracts were washed with water (15 mL), dried (Na2SO4), filtered and evaporated to give 1.3 g (92% yield) of the (R)-2-bromo-2-cyclohexylacetic acid as a white solid.

reactant | (R)-2-amino-2-cyclohexylacetic acid | 6.36 mmol, 1 g | N[C@@H](C(=O)O)C1CCCCC1 | C8H15NO2
reactant | HBr | 50.9 mmol | Br | BrH
reactant | NaNO2 | 20.4 mmol, 1.4 g | N(=O)[O-].[Na+]
solvent | H2O | 20 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
product | (R)-2-bromo-2-cyclohexylacetic acid | 1.3 g, 92% yield | Br[C@@H](C(=O)O)C1CCCCC1 | C8H13BrO2
